US08058441B2
1-Acetyl-4-phenyl-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (11 mg) with 4-biphenylcarbonyl chloride (16 mg) and N,N-diisopropylethylamine (22 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 11 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 4-biphenylcarbonyl chloride | 16 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-4-phenyl-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C1=CC=CC=C1)(C)C | C33H32N2O2
